US05164509
A. 6-Amino-2,2-dimethyl-2H-1-benzopyran
A solution of 6-nitro-2,2-dimethyl-2H-benzopyran (prepared as described in Evans et al., J. Med. Chem.) (4.65 g, 22.66 mmoles) and SnCl2. 2H2O (25.57 g, 0.11 mole) in ethanol (46.5 ml) was heated at reflux for 45 minutes. The reaction mixture was poured onto ice/H2O (180 g), made basic (pH 10-11) with 50% sodium hydroxide solution, and extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried over sodium sulfate, and evaporated in vacuo to obtain 3.88 g of the title A compound as a brown oil.

reactant | 6-nitro-2,2-dimethyl-2H-benzopyran | 22.66 mmoles, 4.65 g | [N+](=O)([O-])C=1C=CC2=C(C=CC(O2)(C)C)C1 | C11H11NO3
reactant | SnCl2 | Cl[Sn]Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 46.5 ml | C(C)O | C2H6O
product | 6-Amino-2,2-dimethyl-2H-1-benzopyran | NC=1C=CC2=C(C=CC(O2)(C)C)C1 | C11H13NO
